US07994185B2
Step B: N-{2-Fluoro-3-[5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2-furansulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-furansulfonamide (91.2 mg, 0.175 mmol) and 1-(methylsulfonyl)-4-piperidinamine (249 mg, 1.398 mmol) the title compound was obtained as a yellow solid (55 mg, 48% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.57 (s, 1H), 7.82-8.02 (m, 2H), 7.34 (td, J=7.3, 1.8 Hz, 1H), 7.17-7.29 (m, 2H), 6.95-7.15 (m, 2H), 6.54 (dd, J=3.2, 1.7 Hz, 1H), 5.71 (s, 2H), 3.67 (t, J=4.6 Hz, 4H), 3.36-3.55 (m, 6H), 2.64-2.95 (m, 5H), 1.86 (d, J=10.3 Hz, 2H), 1.48 (d, J=10.4 Hz 2H). MS (ESI): 664.2 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-furansulfonamide | 0.175 mmol, 91.2 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C=1OC=CC1)F | C21H17ClFN5O4S2
reactant | 1-(methylsulfonyl)-4-piperidinamine | 1.398 mmol, 249 mg | CS(=O)(=O)N1CCC(CC1)N | C6H14N2O2S
product | N-{2-Fluoro-3-[5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2-furansulfonamide | FC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)NC1CCN(CC1)S(=O)(=O)C)N1CCOCC1)NS(=O)(=O)C=1OC=CC1 | C27H30FN7O6S3
